US08114878B2
3.3.2 (2S,4R)-1-{2-[4-(4-chloro-phenyl)-piperazin-1-yl]-5-oxo-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-4-yl}-4-hydroxy-pyrrolidine-2-carboxylic acid amide
80 mg (2S,4R)-1-{2-[4-(4-chloro-phenyl)-piperazin-1-yl]-5-oxo-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-4-yl}-4-hydroxy-pyrrolidine-2-carboxylic acid are placed in 2.00 ml N,N-dimethylformamide and combined with 86.77 mg diisopropylethylamine and 76.20 mg O-(7-azabenzotriazol-1-yl-)-N,N,N′,N′-tetramethyluronium-hexafluoro-phosphate (HATU). The mixture is stirred for 0.25 hours at ambient temperature, then 334 μl ammonia solution (0.5 M in dioxane) are added. The reaction mixture is stirred for 3 hours at ambient temperature, then acidified and water is added. The diastereomers are separated by preparative HPLC (method B). 11.7 mg of Diastereomer 1 and 15.3 mg of Diastereomer 2 (Example 128) are obtained as powders. Analytical HPLC-MS (method A): Diastereomer 1, RT=1.49 min, Diastereomer 2, RT=1.49 min.

reactant | (2S,4R)-1-{2-[4-(4-chloro-phenyl)-piperazin-1-yl]-5-oxo-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-4-yl}-4-hydroxy-pyrrolidine-2-carboxylic acid | 80 mg | ClC1=CC=C(C=C1)N1CCN(CC1)C=1N=C(C2=C(N1)CCS2=O)N2[C@@H](C[C@H](C2)O)C(=O)O | C21H24ClN5O4S
reactant | diisopropylethylamine | 86.77 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ammonia | 0.5 M, 334 μl | N | H3N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2.00 ml | CN(C=O)C | C3H7NO
product | (2S,4R)-1-{2-[4-(4-chloro-phenyl)-piperazin-1-yl]-5-oxo-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-4-yl}-4-hydroxy-pyrrolidine-2-carboxylic acid amide | ClC1=CC=C(C=C1)N1CCN(CC1)C=1N=C(C2=C(N1)CCS2=O)N2[C@@H](C[C@H](C2)O)C(=O)N | C21H25ClN6O3S
